US03975375
C. N-benzoyl-imidazolid-2-one ##SPC44##
8.6 parts by weight of imidazolid-2-one in 100 parts by volume of dry tetrahydrofurane were treated with 15.5 parts by weight of benzoyl chloride in 30 parts by volume of tetrahydrofurane over the course of 15 minutes, at 5°-10°C, and the mixture was subsequently stirred for 3 hours at 10°C. The solvent was stripped off, the residue was shaken with a mixture of chloroform and aqueous NaHCO3 solution for 15 minutes, the chloroform was separated off, the water was again extracted with chloroform and the combined organic phases were washed with water, dried over MgSO4 and evaporated. The residue was recrystallized from ethyl acetate/ether.

reactant | imidazolid-2-one | N1C(NCC1)=O | C3H6N2O
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-benzoyl-imidazolid-2-one | C(C1=CC=CC=C1)(=O)N1C(NCC1)=O | C10H10N2O2
